US06177443B1
[4-(4-Chlorophenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-5-yl]-(4-hydroxyphenyl)methanone
4-Hydroxybenzoic acid (1.3 g, 9.6 mmol) was dissolved in N,N-dimethylformamide (25 ml) and 1-hydroxybenzotriazole (1.3 g, 9.6 mmol) was added followed by N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.8 g, 9.6 mmol), 4-(4-chlorophenyl)4,5,6,7-tetrahydro-thieno[3,2-c]pyridine (2.0 g, 8 mmol) and N,N-diisopropylethylamine (2.5 ml, 16 mmol). The resulting mixture was stirred at room temperature for 16 hours. Water (200 ml) was added and the mixture was extracted with diethyl ether (3×100 ml). The combined organic extracts were washed with saturated aqueous sodium chloride (150 ml), dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography over silica gel eluting with a mixture of ethyl acetate and heptane (1:1). The pure fractions were pooled and concentrated in vacuo to afford 3.14 9 (100%) of the title compound.

reactant | 4-Hydroxybenzoic acid | 9.6 mmol, 1.3 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 1-hydroxybenzotriazole | 9.6 mmol, 1.3 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 9.6 mmol, 1.8 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-(4-chlorophenyl)4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 8 mmol, 2.0 g | ClC1=CC=C(C=C1)C1NCCC2=C1C=CS2 | C13H12ClNS
reactant | N,N-diisopropylethylamine | 16 mmol, 2.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | Water | 200 ml | O | H2O
product | [4-(4-Chlorophenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-5-yl]-(4-hydroxyphenyl)methanone | ClC1=CC=C(C=C1)C1N(CCC2=C1C=CS2)C(=O)C2=CC=C(C=C2)O | C20H16ClNO2S
